US06534655B1
A mixture of 3-phenylindeno[1,2-c]pyrazol-4(1H)-one (0.86 g), sodium borohydride (0.26 g) and absolute ethanol (200 ml) was stirred at ambient temperature for 72 hours. The mixture was filtered to remove a small amount of solid which was discarded and the filtrate was concentrated under reduced pressure to low volume whereupon crystals were formed. This suspension was diluted with water to approximately 250 ml and the solid was collected by filtration and recrystallized from methanol to give 3-phenyl-1,4-dihydroindeno[1,2-c]pyrazol-4-ol, m.p. 269-272° C.

reactant | 3-phenylindeno[1,2-c]pyrazol-4(1H)-one | 0.86 g | C1(=CC=CC=C1)C=1C2=C(NN1)C1=CC=CC=C1C2=O | C16H10N2O
reactant | sodium borohydride | 0.26 g | [BH4-].[Na+]
reactant | ethanol | 200 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 3-phenyl-1,4-dihydroindeno[1,2-c]pyrazol-4-ol | C1(=CC=CC=C1)C=1C2=C(NN1)C1=CC=CC=C1C2O | C16H12N2O
